US06054470
To a solution of t butyl 2-(4-methylphenyl)-2,2-dimethylacetate (19.4 g, 83 mmol) in carbon tetrachloride (350 mL) was added N-bromosuccinimide (16.2 g, 92 mmol) and benzoyl peroxide (0.5 g). The mixture was heated under reflux for 1 hour. The mixture was cooled to rt, and the precipitate was removed by filtration. The filtrate was washed with 10% NaHCO3 and brine, dried (Na2SO4), and evaporated to give t butyl 2-(4-bromomethylphenyl)-2,2-dimethylacetate as a light yellow oil (26.4 g, 100%).

reactant | butyl 2-(4-methylphenyl)-2,2-dimethylacetate | 83 mmol, 19.4 g | CC1=CC=C(C=C1)C(C(=O)OCCCC)(C)C | C15H22O2
reactant | N-bromosuccinimide | 92 mmol, 16.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 350 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | butyl 2-(4-bromomethylphenyl)-2,2-dimethylacetate | 26.4 g, 100% | BrCC1=CC=C(C=C1)C(C(=O)OCCCC)(C)C | C15H21BrO2
